US07037908B2
5-Ethoxycarbonylmethyl-2-methyl-3-(2-morpholin-4-yl-phenyl)-2,5-dihydro-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester.
To a stirred solution of N-hydroxy-N-methyl-2-morpholin-4-yl-benzamidine (3.8 g) in ethanol (100 mL, 200 proof) was added diethyl acetylene-dicarboxylate (3.2 mL, 20 mmol) and the resulting mixture stirred at room temperature for 30 min. The mixture was then concentrated and purified on a silica gel column (10%–30% ethyl acetate/hexanes) to afford the title compound (3.64 g, 45% yield). 1HNMR (300 MHz, CDCl3) δ: 7.64 (1H, dd, J=7.69, 1.83 Hz), 7.40 (1H, td, J=8.05, 1.83 Hz), 7.02 (1H, t, J=7.32 Hz), 6.97 (1H, d, J=8.05 Hz) 4.31–4.20 (2H, m), 4.15 (2H, q, J=7.08 Hz), 3.88–3.74 (4H, m), 3.38 (1H, d, J=16.46 Hz), 3.12–2.92 (4H, m), 3.05 (3H, s), 3.03 (1H, d, J=16.47 Hz), 1.29 (3H, t, J=6.95 Hz), 1.25 (3H, t, J=6.96 Hz). HRMS (ESI) calcd for C20H28N3O6 (M+H): 406.1978; found: 406.1975.

reactant | N-hydroxy-N-methyl-2-morpholin-4-yl-benzamidine | 3.8 g | ON(C(C1=C(C=CC=C1)N1CCOCC1)=N)C | C12H17N3O2
reactant | diethyl acetylene-dicarboxylate | 20 mmol, 3.2 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-Ethoxycarbonylmethyl-2-methyl-3-(2-morpholin-4-yl-phenyl)-2,5-dihydro-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | 3.64 g, 45% yield | C(C)OC(=O)C1(N=C(N(O1)C)C1=C(C=CC=C1)N1CCOCC1)CC(=O)OCC | C20H27N3O6
